US07855216B2
Step 3: 3-Amino-1-(2-triisopropylsilanyloxy-ethyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid methyl ester
To a solution of 4-(2-triisopropylsilanyloxy-ethylamino)-nicotinonitrile (6.4 g, 20 mmol) in DMF at 0° C. under an inert atmosphere was added sodium hydride (60% dispersion in mineral oil, 880 mg, 22 mmol) in a stepwise manner over a 45 min period. The temperature was kept below 110° C. and the reaction mixture was stirred for 15 minutes. Methyl bromoacetate (2.0 mL, 22 mmol) was added to the reaction mixture which was allowed to reach room temperature and was stirred for 18 hours. Aqueous ammonium chloride (1M sltn. ca 100 mL) was added to the reaction mixture which extracted into ethyl acetate. The organic layer was separated, washed with water then brine, dried (Na2SO4), filtered and concentrated to give residue. The residue was purified by flash chromatography (Si-PPC, EtOAc:MeOH, gradient 100:0 to 90:10) to provide the title compound as a brown solid (1.19 g, 15%). LCMS (method B): RT=2.79 min, M+H+=392.

reactant | 4-(2-triisopropylsilanyloxy-ethylamino)-nicotinonitrile | 20 mmol, 6.4 g | C(C)(C)[Si](OCCNC1=CC=NC=C1C#N)(C(C)C)C(C)C | C17H29N3OSi
reactant | sodium hydride | 22 mmol, 880 mg | [H-].[Na+]
reactant | Methyl bromoacetate | 22 mmol, 2.0 mL | BrCC(=O)OC | C3H5BrO2
reactant | ammonium chloride | 1M, ca 100 mL | [Cl-].[NH4+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-Amino-1-(2-triisopropylsilanyloxy-ethyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid methyl ester | 1.19 g, 15% | COC(=O)C1=C(C=2C=NC=CC2N1CCO[Si](C(C)C)(C(C)C)C(C)C)N | C20H33N3O3Si
